US04812164
using 1-(4-chloro-2-fluoro-5-hydroxyphenyl)-2-methoxy-4-trifluoromethyl-6(1H)-pyrimidinone and chlorodimethyl ether with sodium carbonate in acetone there is obtained 1-[4-chloro-2-fluoro-5-(methoxymethoxy) -phenyl]-2-methoxy-4-trifluoromethyl-6(1H)-pyrimidinone, m.p. 97°-98° C.;

reactant | 1-(4-chloro-2-fluoro-5-hydroxyphenyl)-2-methoxy-4-trifluoromethyl-6(1H)-pyrimidinone | ClC1=CC(=C(C=C1O)N1C(=NC(=CC1=O)C(F)(F)F)OC)F | C12H7ClF4N2O3
reactant | chlorodimethyl ether | COCCl | C2H5ClO
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetone | CC(=O)C | C3H6O
product | 1-[4-chloro-2-fluoro-5-(methoxymethoxy) -phenyl]-2-methoxy-4-trifluoromethyl-6(1H)-pyrimidinone | ClC1=CC(=C(C=C1OCOC)N1C(=NC(=CC1=O)C(F)(F)F)OC)F | C14H11ClF4N2O4
